US07652051B2
Synthesis of 5-[4-(Pyridin-3-yloxy)phenyl]-1,3,4-oxadiazol-2-amine hydrobromide salt
4-(pyridine-3-yloxy)benzohydrazide (3.7 g, 16.14 mmol) was dissolved in 100 mL of anhydrous THF and 3.0 M solution of cyanogen bromide (5.38 mL, 16.14 mmol) was added via syringe. Within 5-10 min of stirring an orange precipitate started to form. The reaction mixture was brought to reflux and refluxed for 1 hr. Then it was cooled down to ambient temperature and filtered. The collected orange precipitate was washed with ca. 100 mL of THF, ca. 100 mL of EtOAc, anhydrous Et2O and dried in vacuo to give the title product as an orange solid (4.40 g). Yield 81.4%.

reactant | 4-(pyridine-3-yloxy)benzohydrazide | 16.14 mmol, 3.7 g | N1=CC(=CC=C1)OC1=CC=C(C(=O)NN)C=C1 | C12H11N3O2
reactant | cyanogen bromide | 16.14 mmol, 5.38 mL | N#CBr | CBrN
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 5-[4-(Pyridin-3-yloxy)phenyl]-1,3,4-oxadiazol-2-amine hydrobromide salt | 4.40 g, Yield 81.4% | Br.N1=CC(=CC=C1)OC1=CC=C(C=C1)C1=NN=C(O1)N | InChI=1S/C13H10N4O2.BrH/c14-13-17-16-12(19-13)9-3-5-10(6-4-9)18-11-2-1-7-15-8-11;/h1-8H,(H2,14,17);1H
